US08471005B2
(3H-Benzimidazol-5-yl)-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (75.4 mg, 0.262 mmol) was coupled to 3H-benzimidazol-5-ylamine (60.0 mg, 0.45 mmol) at 105° C. for 86 h to afford the title compound. Yield of TFA salt: 62 mg (50%) of brown powder. LC/MS: 357 (M+H); HPLC: 95% pure, RT=2.38 min; 1H NMR: (DMSO, δ) 9.77 (s, 1H), 9.38 (s, 1H), 9.02 (s, 1H), 8.04 (s, 1H), 7.93 (d, J=9.2, 1H), 7.85 (d, J=7.5, 1H), 7.65 (d, J=9.2, 1H), 7.47 (t, J=8.2, 1H), 7.25 (d, J=8.2, 1H), 7.17 (t, J=7.5, 1H), 7.01 (d, J=4.8, 1H), 6.98 (d, J=4.8, 1H), 3.81 (s, 3H)-benzimidazole NH presumably underwent rapid exchange with residual water.

reactant | 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.262 mmol, 75.4 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | 3H-benzimidazol-5-ylamine | 0.45 mmol, 60.0 mg | N1=CNC2=C1C=CC(=C2)N | C7H7N3
product | (3H-Benzimidazol-5-yl)-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | N1=CNC2=C1C=CC(=C2)NC2=NN1C(C=N2)=CC=C1C1=C(C=CC=C1)OC | C20H16N6O
